US05034404
A mixture of 0.39g of 5-(aminomethyl)-2-bromothiazole, 0.30g of 1,2-dimethyl-3-nitroisothiourea, 0.58g of cuprous bromide, 0.55g of anhydrous potassium carbonate and 4ml of dry acetonitrile was stirred in an oil bath of 60° C. for 45 minutes. The reaction mixture was purified by a column chromatography [developing solvent: dichloromethane-methanol (10:1)] to obtain 1-(2-bromo-5-thiazolylmethyl)-3-methyl-2-nitroguanidine (Compound No. 39), as white solid.

reactant | 5-(aminomethyl)-2-bromothiazole | 0.39g | NCC1=CN=C(S1)Br | C4H5BrN2S
reactant | 1,2-dimethyl-3-nitroisothiourea | 0.30g | CNC(SC)=N[N+](=O)[O-] | C3H7N3O2S
reactant | potassium carbonate | 0.55g | C([O-])([O-])=O.[K+].[K+]
solvent | acetonitrile | 4ml | C(C)#N | C2H3N
product | 1-(2-bromo-5-thiazolylmethyl)-3-methyl-2-nitroguanidine | BrC=1SC(=CN1)CNC(=N[N+](=O)[O-])NC | C6H8BrN5O2S
